data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_95776_2,[C:1]1([C:2]([H:14])([H:15])[H:16])([O:6][H:10])[C:3]([O:7][H:11])([O:8][N:5]([H:12])[H:13])[C:4]1=[O:9]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([O:7][H:11])=[O:8])([C:4]([N:5]([H:12])[H:13])=[O:9])[O:6][H:10],36.77902999995325
MR_675850_0,[C:1]([C@@:3]12[C:2]([O:8][H:9])([C:6]([H:16])([H:17])[C@:5]1([N:4]([H:10])[H:11])[H:12])[O:7]2)([H:13])([H:14])[H:15]>>[C:1](/[C:3](=[C:5](\[N:4]([H:10])[H:11])[H:12])[O:7][C:2](=[C:6]([H:16])[H:17])[O:8][H:9])([H:13])([H:14])[H:15],43.07473750000227
MR_2248_0,[C:1]([N:2]([O:5][C:3]([N:4]([H:8])[H:9])=[O:6])[H:7])([H:10])([H:11])[H:12]>>[C:1]([N:2]1[C:3]([N:4]([H:8])[H:9])([O:6][H:7])[O:5]1)([H:10])([H:11])[H:12],71.89016500001557
MR_623817_0,[C:1](/[C:3]([C:2]([H:12])([H:13])[H:14])=[C:4](/[O:5][H:8])[H:11])([N:6][O:7])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C@@:3]([C:2]([H:12])([H:13])[H:14])([N:6]=[O:7])[C@@:4]1([O:5][H:8])[H:11],59.58677250001074
MR_69854_1,[C:1]([C:2]1=[N:6][C:3]2([H:7])[O:4][N:5]12)([H:8])([H:9])[H:10]>>[C:1]([c:2]1[n:5][o:4][c:3]([H:7])[n:6]1)([H:8])([H:9])[H:10],14.600042500020436
MR_93917_2,[C:1]1([N:8]([H:14])[H:15])([H:11])[C:6]([N:4]([C:2]([H:16])([H:17])[H:20])[C:3]([H:18])([H:19])[H:21])([N:5]([N:7]([H:12])[H:13])[H:10])[O:9]1>>[C:1]([N:4]([C:2]([H:16])([H:17])[H:20])[C:3]([H:18])([H:19])[H:21])([C:6]([N:5]([N:7]([H:12])[H:13])[H:10])=[O:9])([N:8]([H:14])[H:15])[H:11],17.799665000003415
MR_557821_0,[C:1](\[N:3]([H:8])[H:9])([O:6][C:2]([N:4]([H:10])[H:11])=[C:5]([H:13])[H:14])=[N:7]\[H:12]>>[C:1]([N:3]([H:8])[H:9])(=[O:6])[N:7]([C:2]([N:4]([H:10])[H:11])=[C:5]([H:13])[H:14])[H:12],40.47751499996082
MR_170251_0,[C:1]1([O:5][H:7])([H:9])[N:3]([H:8])[C:2]([H:11])([H:12])[C:4]1([O:6][H:10])[H:13]>>[C:1]([N:3]([C:2]([C:4](=[O:6])[H:13])([H:11])[H:12])[H:8])([O:5][H:7])([H:9])[H:10],72.03449000000788
MR_543338_0,[C:1]([N:2]([N:3]([H:8])[H:9])[H:7])(/[C:6](=[C:5](\[N:4]([H:10])[H:11])[H:14])[H:15])([H:12])[H:13]>>[C:1]([N:2]([N:3]([H:8])[H:11])[H:7])(/[C:6](=[C:5](\[N:4]([H:9])[H:10])[H:14])[H:15])([H:12])[H:13],44.74325999999863
MR_677039_0,[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:4]([C:3]([H:18])([H:19])[H:20])=[C:7](\[O:8][H:10])[H:14])([N:5]([H:11])[H:12])[C:6](=[O:9])[H:13]>>[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:4](/[C:3]([H:18])([H:19])[H:20])[C:7]([C:6](=[O:9])[H:13])([O:8][H:10])[H:14])[N:5]([H:11])[H:12],52.83173499998
MR_195647_0,[C:1]([N:2]([H:7])[H:8])([N:3]([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11]>>[C:1]1([N:2]([H:7])[H:8])([N:3]([H:9])[H:10])[C:4]([H:11])=[C:5]([H:12])[C:6]1([H:13])[H:14],48.19262750002878
MR_187309_1,[N:1]([N:2]([H:6])[H:7])([C:3](=[O:4])[H:8])[H:5]>>[N:1]([N:2]([H:6])[H:8])([C:3](=[O:4])[H:7])[H:5],69.44981750000608
MR_215618_0,[C:1](/[C:2](=[C:5](\[N:4]([H:14])[H:15])[H:16])[O:8][H:11])([N:3]([H:12])[H:13])([O:6][H:9])[O:7][H:10]>>[C@@:1]1([N:3]([H:12])[H:13])([O:6][H:9])[C:2]([O:7][H:10])([O:8][H:11])[C@@:5]1([N:4]([H:14])[H:15])[H:16],41.943982500003614
MR_30618_0,[C:1]([N:3](/[C:4](=[N:7]/[C:2]([H:13])([H:14])[H:15])[H:8])[C:5](=[C:6]([H:16])[H:17])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[N:3]=[C:4](\[N:7]([C:2]([H:13])([H:14])[H:15])[C:5](=[C:6]([H:16])[H:17])[H:9])[H:8])([H:10])([H:11])[H:12],63.35741999997879
MR_377957_1,[C:1]([C:2]([C:4]([H:16])([H:18])[H:19])([C:5]([H:17])([H:20])[H:21])[O:8][H:10])([C:3]([H:13])([H:14])[H:15])([N:6]([H:11])[H:12])[O:7][H:9]>>[C:1]([C:2]([C:4]([H:16])([H:18])[H:19])([C:5]([H:17])([H:20])[H:21])[O:7][H:9])([C:3]([H:13])([H:14])[H:15])([N:6]([H:11])[H:12])[O:8][H:10],68.61775250000235
MR_170996_0,[C:1]([N:5]([H:8])[H:9])([O:7][C:4]([C:2]([C:3]([H:14])([H:15])[H:16])([H:12])[H:13])=[O:6])([H:10])[H:11]>>[C:1]([N:5]([H:8])[H:9])([O:6][C:4]([C:2]([C:3]([H:14])([H:15])[H:16])([H:12])[H:13])=[O:7])([H:10])[H:11],32.50763750000104
MR_102994_0,[C:1](/[C:2](=[N:6]/[H:13])[H:15])([C:3]([N:4]([H:9])[H:10])([O:7][H:14])[H:16])([N:5]([H:11])[H:12])[H:8]>>[C:1]([C:2]([N:6]([H:13])[H:14])([H:15])[H:16])([C:3]([N:4]([H:9])[H:10])=[O:7])([N:5]([H:11])[H:12])[H:8],53.45735250004125
MR_305584_0,[C:1]1([O:5][N:2]([H:7])[H:8])([H:10])/[C:3](=[N:6]\[H:9])[C:4]1([H:11])[H:12]>>[C:1](/[C:3](=[N:6]\[H:9])[H:10])(=[C:4]([H:11])[H:12])[O:5][N:2]([H:7])[H:8],67.42424750001945
MR_581871_0,[C:1]1([H:11])([H:12])[C:3]2(/[C:4](=[N:8]/[H:10])[N:7]2[H:9])[C:5]([C:2]([H:14])([H:15])[H:16])=[C:6]1[H:13]>>[C:1]1([H:11])([H:12])[C:3](=[N:7]\[H:9])/[C:4](=[N:8]/[H:10])[C:5]([C:2]([H:14])([H:15])[H:16])=[C:6]1[H:13],51.16070250002565
MR_188348_1,[C:1]([C:2]([H:9])([H:12])[H:13])([C:3]([H:10])([H:11])[H:14])([N:4]([H:7])[H:8])[N:6]=[C:5]([H:15])[H:16]>>[C:1]([C:2]([H:9])([H:12])[H:13])([C:3]([H:10])([H:11])[H:14])=[N:6][C:5]([N:4]([H:7])[H:8])([H:15])[H:16],59.96327250002324
MR_100084_1,[C@:1]([C:3]([H:15])([H:16])[H:17])([O:6][C:2]([H:12])([H:13])[H:14])([O:7][H:10])/[N:9]=[C:5](/[C:4]([H:18])([H:19])[H:20])[O:8][H:11]>>[C:1](\[C:3]([H:15])([H:16])[H:17])([O:7][H:10])=[N:9]/[C@:5]([C:4]([H:18])([H:19])[H:20])([O:6][C:2]([H:12])([H:13])[H:14])[O:8][H:11],43.48888749999105
